US04298529
Aluminum chloride (120 mg.) was added to a solution of 7-(2-methoxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 50 mg.) in dry tetrahydrofuran (10 ml.). Pridinium hydrobromide perbromide (50 mg.) was added to the solution, and stirred at room temperature for 20 minutes. Ethyl acetate (50 ml.) and water (10 ml.) were added to the resultant solution and the mixture was treated in a similar manner to that of the above Example 10-(8) to give 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 52.5 mg.)

reactant | Aluminum chloride | 120 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 7-(2-methoxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid | 50 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(C)=O | C12H13N3O6S
reactant | Pridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 52.5 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
